US06660753B2
A solution of 4-(3-cyanophenyl)imidazole (0.02 g, 0.11 mmol) in N-methylpyrrolidinone (0.5 mL) was treated with 2-bromopyridine (1.05 mL, 11.1 mmol) and the reaction mixture heated overnight at 160° C. After cooling the reaction mixture was diluted with dichloromethane (40 mL) and the organic phase was successively washed with water (10×50 mL) and brine (50 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography using 30% ethyl acetate in hexanes afforded 2.5mg (9%) of 4-(3-cyanophenyl)-1-(2-pyridyl)-1H-imidazole, as an off-white solid.

reactant | 4-(3-cyanophenyl)imidazole | 0.11 mmol, 0.02 g | C(#N)C=1C=C(C=CC1)C=1N=CNC1 | C10H7N3
reactant | 2-bromopyridine | 11.1 mmol, 1.05 mL | BrC1=NC=CC=C1 | C5H4BrN
solvent | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(3-cyanophenyl)-1-(2-pyridyl)-1H-imidazole | 2.5mg, 9% | C(#N)C=1C=C(C=CC1)C=1N=CN(C1)C1=NC=CC=C1 | C15H10N4
